US07696223B2
a) 4-Hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 2-bromo-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (34 mg, 0.094 mmol), 10% palladium on carbon (10 mg), ammonium formate (119 mg, 1.88 mmol) in EtOAc (2 ml) was refluxed overnight; then the mixture was diluted with EtOAc, the solids were filtered off, the filtrate was concentrated and the resulting residue was purified on column to give the title product (22 mg) as a clear oil; ESI MS (m/z): 283 (M+H+).

reactant | 2-bromo-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 0.094 mmol, 34 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2)Br)C2=CC=CC=C2)O | C16H13BrN2O3
reactant | ammonium formate | 1.88 mmol, 119 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | 4-Hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 22 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2)C2=CC=CC=C2)O | C16H14N2O3
